US08071597B2
N-{3-[({3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}amino)sulfonyl]phenyl}acetamide (4) (Scheme 5)
N-(3,5-dimethoxyphenyl)quinoxaline-2,3-diamine (50 mg, 0.168 mmol), 3-Acetylaminobenzene sulfonylchloride (59 mg, 0.5 mmol, commercially available from INTERCHIM) are dissolved in a 1 to 2 mixture of pyridine: dichlorobenzene (0.3 ml) and the reaction mixture is heated to 150° C. overnight in an orbital shaker. When TLC confirms the total consumption of the starting material, the reaction mixture is cooled down to rt. The precipitate formed is filtered and purified by column chromatography, using Pet.Ether: EtOAc as eluent, to afford 20 mg (24%) of the title compound as a yellow solid. HPLC (max plot) 89%, rt. 4.08 min. LC/MS: (ES+): 494.

reactant | N-(3,5-dimethoxyphenyl)quinoxaline-2,3-diamine | 0.168 mmol, 50 mg | COC=1C=C(C=C(C1)OC)NC1=NC2=CC=CC=C2N=C1N | C16H16N4O2
reactant | 3-Acetylaminobenzene sulfonylchloride | C(C)(=O)NC=1C=C(C=CC1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | dichlorobenzene | 0.3 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{3-[({3-[(3,5-dimethoxyphenyl)amino]quinoxalin-2-yl}amino)sulfonyl]phenyl}acetamide | 20 mg, 24% | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=C(C=CC1)NC(C)=O | C24H23N5O5S
